US04556659
9-[1,3-Di(t-butoxycarbonyloxy)-2-propoxymethyl]guanine
A solution of 212 mg of 9-(1,3-dihydroxy-2-propoxymethyl)guanine and 56 mg of 4-dimethylaminopyridine in 5 ml of di-t-butyldicarbonate plus 10 ml of N,N'-dimethylformamide was stirred in a stoppered flask for 72 hours. The solution was then concentrated and the residue chromatographed (1/7 methanol/methylene chloride) to give 35.8 mg of 9-[1,3-di(t-butoxycarbonyloxy)-2-propoxymethyl]guanine following recrystallization from methanol, m.p. 192°-193° C.

reactant | 9-(1,3-dihydroxy-2-propoxymethyl)guanine | 212 mg | OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O4
reactant | di-t-butyldicarbonate | 5 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 56 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N'-dimethylformamide | 10 ml | CN(C)C=O | C3H7NO
product | 9-[1,3-Di(t-butoxycarbonyloxy)-2-propoxymethyl]guanine | C(C)(C)(C)OC(=O)OCC(COC(=O)OC(C)(C)C)OCN1C=2N=C(NC(C2N=C1)=O)N | C19H29N5O8
